2184-10-31 06:35:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Patient weaned from ventilator and extubated around 6pm.  Patient
   seemed increasingly somnolent after extubation, not protecting her
   airway.  ABG: 7.25/86/76/39.  Reintubated patient at 9pm.
   Attempted A-line --> unsuccessful.
   This AM, repeat ABG showed 7.46/49/444/36.  Vent settings adjusted
   (decreased FiO2, decreased TV, increased RR).
   Patient intermittently on Levo --> weaned off at midnight.
   Allergies:
   Last dose of Antibiotics:
   Azithromycin - [**2184-10-30**] 08:30 PM
   Ceftriaxone - [**2184-10-30**] 10:00 PM
   Infusions:
   Heparin Sodium - 275 units/hour
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium - [**2184-10-31**] 05:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-10-31**] 06:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 36.1
C (97
   HR: 86 (71 - 112) bpm
   BP: 111/70(77) {83/29(52) - 138/101(107)} mmHg
   RR: 19 (14 - 27) insp/min
   SpO2: 100%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 58.5 kg (admission): 58.2 kg
             Total In:
                                                                    374 mL
                                                                    132 mL
   PO:
             TF:
   IVF:
                                                                    374 mL
                                                                    132 mL
   Blood products:
   Total out:
                                                                    455 mL
                                                                    525 mL
   Urine:
                                                                    455 mL
                                                                    525 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -81 mL
                                                                   -393 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 450) mL
   Vt (Spontaneous): 380 (380 - 380) mL
   PS : 5 cmH2O
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 300
   PIP: 28 cmH2O
   Plateau: 20 cmH2O
   Compliance: 30.8 cmH2O/mL
   SpO2: 100%
   ABG: 7.46/49/444/36/10
   Ve: 5 L/min
   PaO2 / FiO2: 888
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Lymphatic: Cervical WNL
   Cardiovascular: irregularly irregular (PMI Normal), (S1: Normal), (S2:
   Normal), no murmur, rub or gallop appreciated
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Diminished), (Left DP pulse: Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : , Wheezes : scattered anteriorly)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   128 K/uL
   13.5 g/dL
   167 mg/dL
   0.6 mg/dL
   36 mEq/L
   4.4 mEq/L
   28 mg/dL
   95 mEq/L
   136 mEq/L
   41.5 %
   11.8 K/uL
        [image002.jpg]
                             [**2184-10-30**]  02:29 PM
                             [**2184-10-30**]  05:03 PM
                             [**2184-10-30**]  09:30 PM
                             [**2184-10-31**]  03:45 AM
                             [**2184-10-31**]  05:26 AM
   WBC
   9.9
   11.8
   Hct
   40.3
   41.5
   Plt
   116
   128
   Cr
   0.7
   0.6
   TropT
   0.01
   <0.01
   TCO2
   34
   39
   36
   Glucose
   246
   167
   Other labs: PT / PTT / INR:14.0/49.5/1.2, CK / CKMB /
   Troponin-T:227/5/<0.01, ALT / AST:412/128, Alk Phos / T Bili:55/0.4,
   LDH:307 IU/L, Ca++:7.6 mg/dL, Mg++:2.5 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   78-year-old female with a history of atrial fibrillation on Coumadin,
   diabetes, hyperlipidemia, CHF with an EF of 30%, COPD, known AAA who
   presented to OSH with hypoxia and reduced EF, now intubated.
   .
   .
   # Respiratory Failure: Differential includes COPD exacerbation,
   community acquired pneumonia, vs. pulmonary edema secondary to ischemia
   or HTN. Patient currently appears euvolemic.  Lungs clear to
   auscultation bilaterally. CXR not grossly overloaded. Chem 7 appears to
   be contraction alkalosis. Would not diurese at this time.
   -obtain sputum cultures, blood cultures
   -continue nebs, solumedrol for presumed COPD exacerbation (Given IV
   solumedrol 80mg [**Hospital1 **] at OSH.)
   -continue azithromycin for 5 day course empiric atypical pna given
   increased WBC count this AM; although no infiltrate on OSH chest CT,
   thick secretions yesterday.  Will stop ceftriaxone
   - will wean sedation and attempt t extubated today
   .
   # CORONARIES:  Patient has known CAD s/p multiple MIs. We do not have
   these records in our system. Outpatient cardiologist at [**Hospital 9079**] clinic.
   -rule out MI
 has had 2 neg troponins
   -continue ASA and statin
   -hold lisinopril and BB in the setting of hypotension
 will restart if
   BP stable later today
   .
   # PUMP:  Patient has known systolic heart failure with baseline EF of
   30%. Most recent echo showed EF of 15-20%.  Unclear why she has
   worsening systolic function. Ruled out for ischemia at OSH. Patient
   currently appears euvolemic on exam. Chem 7 suggests contraction
   alkalosis. Would not diurese at this time.
   -held lisinopril [**3-8**] hypotension
 could restart today
   -follow I/Os, with goal even
   .
   # RHYTHM:  currently in atrial fibrillation, rate well controlled. Afib
   with RVR induced by levophed at OSH. As a result, patient was loaded
   with IV amiodarone. Most recent INR 1.4.
   -continue to anticoagulate with warfarin, recheck INR, heparin drip.
   CHAD2 score is 3
 6% annual stroke risk from age, chf, dm so benefits
   from continued anticoagulation
   -do not continue amiodarone started at OSH
   -continue digoxin, per outpatient regimen
   .
   # Neuro deficits by history, most likely TIA.
   - consider carotid dopplers, likely as outpatient.
   - full neuro exam when off sedation
   .
   # DM2: Unclear outpatient regimen. However with steroids, sugars have
   been elevated. Has been getting Lantus 40 units daily at OSH.
   -continue lantus 40u daily, plus SSI
   -qid fingersticks
   .
   # Hyponatremia: Na 130 prior to transfer. Appears euvolemic. Patient
   has new lung nodule, concerning for malignancy. If this is the case,
   this may be SIADH.
   -send urine lytes, serum osms
 fena < 1%
   .
   # Transaminitis with elevated AST, ALT:  resolving.  She underwent an
   abdominal ultrasound which revealed dilated hepatic veins and IVC
   likely representing increased right heart pressure. AAA was noted at
   4.8 x 4.7 cm. Her crestor was held.
   -trend LFTs
   .
   #.  Spiculated 1.8 cm lung mass in the right apical segment concerning
   for malignancy:  This will need a biopsy and further workup once acute
   issues have resolved.
       .
   FEN:  NPO. No IV fluids. Replete lytes PRN.
   .
   ACCESS: L IJ
   .
   PROPHYLAXIS:
   -DVT ppx with heparin SQ
   -Pain management with
   -Bowel regimen with
   .
   CODE: DNR, confirmed with HCP at OSH. Patient already intubated. Okay
   with central lines and pressors.
   .
   COMM: [**Name (NI) **] healthcare proxy is her brother, [**Name (NI) **]
   [**Name (NI) 9076**],  phone number [**Telephone/Fax (1) 9077**], cell phone. Home phone [**Telephone/Fax (1) 9078**].
   .
   DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2184-10-30**] 02:15 PM
   20 Gauge - [**2184-10-30**] 02:20 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2184-11-01 07:58:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 Patient was extubated this morning, currently alert, interactive,
   protecting her airway.  She has no complaints.
   Allergies:
   Last dose of Antibiotics:
   Ceftriaxone - [**2184-10-30**] 10:00 PM
   Azithromycin - [**2184-10-31**] 08:19 PM
   Infusions:
   Heparin Sodium - 350 units/hour
   Other ICU medications:
   Heparin Sodium - [**2184-11-1**] 01:24 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2184-11-1**] 07:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.7
C (98.1
   HR: 95 (70 - 109) bpm
   BP: 130/64(81) {97/50(61) - 139/79(89)} mmHg
   RR: 16 (10 - 35) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 57.6 kg (admission): 58.2 kg
             Total In:
                                                                    685 mL
                                                                    105 mL
   PO:
             TF:
   IVF:
                                                                    635 mL
                                                                    105 mL
   Blood products:
   Total out:
                                                                  1,400 mL
                                                                    235 mL
   Urine:
                                                                  1,400 mL
                                                                    235 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -715 mL
                                                                   -130 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 346 (346 - 439) mL
   PS : 15 cmH2O
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 236
   PIP: 23 cmH2O
   Plateau: 17 cmH2O
   Compliance: 33.3 cmH2O/mL
   SpO2: 97%
   ABG: 7.46/47/131/35/9
   Ve: 5.5 L/min
   PaO2 / FiO2: 328
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: irregularly irregular (PMI Normal), (S1: Normal), (S2:
   Normal), no murmur, rub or gallop appreciated
   Peripheral Vascular: (Right radial pulse: not assessed), (Left radial
   pulse: not assessed), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: not assessed
   : ), (Breath Sounds: Clear anteriorly)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   114 K/uL
   12.7 g/dL
   89 mg/dL
   0.7 mg/dL
   35 mEq/L
   4.2 mEq/L
   26 mg/dL
   97 mEq/L
   136 mEq/L
   38.6 %
   12.3 K/uL
        [image002.jpg]
                             [**2184-10-30**]  02:29 PM
                             [**2184-10-30**]  05:03 PM
                             [**2184-10-30**]  09:30 PM
                             [**2184-10-31**]  03:45 AM
                             [**2184-10-31**]  05:26 AM
                             [**2184-10-31**]  03:32 PM
                             [**2184-11-1**]  04:42 AM
   WBC
   9.9
   11.8
   12.3
   Hct
   40.3
   41.5
   38.6
   Plt
   116
   128
   114
   Cr
   0.7
   0.6
   0.7
   TropT
   0.01
   <0.01
   TCO2
   34
   39
   36
   34
   Glucose
   246
   167
   89
   Other labs: PT / PTT / INR:14.0/44.5/1.2, CK / CKMB /
   Troponin-T:227/5/<0.01, ALT / AST:348/134, Alk Phos / T Bili:47/0.7,
   LDH:723 IU/L, Ca++:8.2 mg/dL, Mg++:2.2 mg/dL, PO4:2.8 mg/dL
   Imaging: CXR ([**10-31**]):  Orogastric tube coils within the stomach. Distal
   tip is not
   included on the radiograph. Exam otherwise unchanged since recent study
   Microbiology: Sputum Cx ([**10-30**]):  >25 PMNs and <10 epithelial cells/100X
   field.  NO MICROORGANISMS SEEN.
   UCx ([**10-30**]):  NG
   Assessment and Plan
   78-year-old female with a history of atrial fibrillation on Coumadin,
   diabetes, hyperlipidemia, CHF with an EF of 30%, COPD, known AAA who
   presented to OSH with hypoxia and reduced EF, now extubated.
   .
   # Respiratory Failure: Differential includes COPD exacerbation,
   community acquired pneumonia, vs. pulmonary edema secondary to ischemia
   or HTN. Patient currently appears euvolemic.  Lungs clear to
   auscultation bilaterally. CXR not grossly overloaded. Chem 7 appears to
   be contraction alkalosis. Would not diurese at this time.
   -f/u sputum cultures, blood cultures (negative to date)
   -Continue nebs, solumedrol for presumed COPD exacerbation (Given IV
   solumedrol 80mg [**Hospital1 **] at OSH.)
   -Continue Azithromycin for 5 day course empiric atypical PNA given
   increased WBC count this AM; although no infiltrate on OSH chest CT,
   thick secretions yesterday.  Will stop ceftriaxone
   - Extubated today
   .
   # CORONARIES:  Patient has known CAD s/p multiple MIs. We do not have
   these records in our system. Outpatient cardiologist at [**Hospital 9079**]
   clinic.  Ruled out for MI during this admission.
   -Continue ASA, statin, Lisinopril
   -Hold BB in the setting of recent hypotension
 will consider
   restarting in the future if BP stable
   .
   # PUMP:  Patient has known systolic heart failure with baseline EF of
   30%. Most recent echo showed EF of 15-20%.  Unclear why she has
   worsening systolic function, but should have TTE as an outpatient once
   her acute issues have resolved. Ruled out for ischemia at OSH. Patient
   currently appears euvolemic on exam. Chem 7 suggests contraction
   alkalosis. Would not diurese at this time.
   - Continue Lisinopril
   - Follow I/Os, with goal even
   - Continue home Digoxin
   .
   # RHYTHM:  currently in atrial fibrillation, rate well controlled. Afib
   with RVR induced by levophed at OSH. As a result, patient was loaded
   with IV amiodarone. Most recent INR 1.4.
   - Adjust Heparin sliding scale per correct weight.
   -Continue to anticoagulate with Warfarin, recheck INR.  CHAD2 score is
   3
 6% annual stroke risk from age, chf, dm so benefits from continued
   anticoagulation
   - Initiate Diltiazem 30mg [**Hospital1 **]
   .
   # Neuro deficits by history, most likely TIA.
   - consider carotid dopplers, likely as outpatient.
   - full neuro exam when off sedation
   .
   # DM2: Unclear outpatient regimen. However with steroids, sugars have
   been elevated. Question of Lantus dose at OSH, currently adequate sugar
   control on SSI without need for long acting insulin.
   -Discontinue Glargine as pt not requiring, and not on Glargine at home
   - Continue SSI
   -qid fingersticks
   .
   # Hyponatremia: Na 130 prior to transfer, currently resolved. Appears
   euvolemic. Patient has new lung nodule, concerning for malignancy, but
   given resolution of Na, unlikely to be SIADH.
   .
   # Transaminitis with elevated AST, ALT:  Resolving.  She underwent an
   abdominal ultrasound which revealed dilated hepatic veins and IVC
   likely representing increased right heart pressure. AAA was noted at
   4.8 x 4.7 cm. Her crestor was held.
   .
   #.  Spiculated 1.8 cm lung mass in the right apical segment concerning
   for malignancy:
   - This will need a biopsy and further workup once acute issues have
   resolved.
   - Will notify pt and family once patient stabilized and out of the ICU
       .
   FEN:  Diabetic, heart healthy, low sodium diet. No IV fluids. Replete
   lytes PRN.
   .
   ACCESS: L IJ, may be pulled once pt stable after extubation.  PIV in
   place.
   .
   PROPHYLAXIS:
   -DVT ppx with heparin drip
   -Pain management with
   -Bowel regimen with  Miralax
   - GI PPx for high dose steroid use
   .
   CODE: DNR, confirmed with HCP at OSH. Patient already intubated. Okay
   with central lines and pressors.
   .
   COMM: [**Name (NI) **] healthcare proxy is her brother, [**Name (NI) **]
   [**Name (NI) 9076**],  phone number [**Telephone/Fax (1) 9077**], cell phone. Home phone [**Telephone/Fax (1) 9078**].
   .
   DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2184-10-30**] 02:15 PM
   20 Gauge - [**2184-10-30**] 02:20 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I would add the following remarks:
   Above discussed extensively with patient. Above discussed extensively
   with family member, next of [**Doctor First Name 23**] or health care proxy.
   Total time spent on patient care: 35 minutes of critical care time.
   Additional comments:
   Critically ill due to hypoxic respiratory failure, acute on chronic
   systolic CHF, altered mental status, atrial fibrillation.
   Date/time of service 9/28/9 at 1130.
   ------ Protected Section Addendum Entered By:[**Name (NI) 174**] [**Name (NI) **], MD
   on:[**2184-11-1**] 16:43 ------

2184-11-02 06:00:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2184-11-1**] 01:03 PM
 MULTI LUMEN - STOP [**2184-11-1**] 06:17 PM
 Lopressor 12.5mg daily initiated
 No acute events overnight.  Tachycardic to 100
s.  Denies chest pain,
   shortness of breath.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2184-10-30**] 10:00 PM
   Azithromycin - [**2184-11-1**] 08:00 PM
   Infusions:
   Heparin Sodium - 800 units/hour
   Other ICU medications:
   Heparin Sodium - [**2184-11-1**] 03:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:  Negative.
   Flowsheet Data as of  [**2184-11-2**] 05:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 35.7
C (96.3
   HR: 96 (80 - 106) bpm
   BP: 108/59(70) {95/46(61) - 132/87(94)} mmHg
   RR: 20 (12 - 32) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 60.2 kg (admission): 58.2 kg
             Total In:
                                                                  1,199 mL
                                                                    268 mL
   PO:
                                                                    600 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    539 mL
                                                                    148 mL
   Blood products:
   Total out:
                                                                    765 mL
                                                                    350 mL
   Urine:
                                                                    765 mL
                                                                    350 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    434 mL
                                                                    -82 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula 3L
   Physical Examination
   General Appearance: Well nourished, interactive, no acute distress
   Head, Ears, Nose, Throat: Hematoma 2cm on left side of tongue
   Cardiovascular: Irregularly irregular, (S1: Normal), (S2: Normal), no
   murmur, rub or gallop appreciated
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: not assessed
   ), (Breath Sounds:  Rales at LLL, no wheezes)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Peripheral Vascular: (Right radial pulse: not assessed), (Left radial
   pulse: not assessed), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Cool feet
   Neurologic: Responds to: Verbal stimuli, interactive  Movement: Moving
   all extremities  Tone: Not assessed
   Labs / Radiology
   116 K/uL
   13.2 g/dL
   89 mg/dL
   0.7 mg/dL
   35 mEq/L
   4.2 mEq/L
   26 mg/dL
   97 mEq/L
   136 mEq/L
   42.4 %
   12.1 K/uL
        [image002.jpg]
                             [**2184-10-30**]  02:29 PM
                             [**2184-10-30**]  05:03 PM
                             [**2184-10-30**]  09:30 PM
                             [**2184-10-31**]  03:45 AM
                             [**2184-10-31**]  05:26 AM
                             [**2184-10-31**]  03:32 PM
                             [**2184-11-1**]  04:42 AM
                             [**2184-11-2**]  04:37 AM
   WBC
   9.9
   11.8
   12.3
   12.1
   Hct
   40.3
   41.5
   38.6
   42.4
   Plt
   116
   128
   114
   116
   Cr
   0.7
   0.6
   0.7
   TropT
   0.01
   <0.01
   TCO2
   34
   39
   36
   34
   Glucose
   246
   167
   89
   Other labs: PT / PTT / INR:12.6/150.0/1.1, CK / CKMB /
   Troponin-T:227/5/<0.01, ALT / AST:348/134, Alk Phos / T Bili:47/0.7,
   LDH:723 IU/L, Ca++:8.2 mg/dL, Mg++:2.2 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   78-year-old female with a history of atrial fibrillation on Coumadin,
   diabetes, hyperlipidemia, CHF with an EF of 30%, COPD, known AAA who
   presented to OSH with hypoxia and reduced EF, now extubated breathing
   well.
   .
   # Respiratory Failure: Differential includes COPD exacerbation,
   community acquired pneumonia, vs. pulmonary edema secondary to HTN.
   Ruled out for ischemia.  Patient currently appears euvolemic, CXR not
   grossly overloaded.  Rales on LLL possibly [**3-8**] PNA, as respiratory
   culture [**11-1**] grew out rare yeast, gram stain >25 PMN but no bacteria.
   Still with leukocytosis 12.1.  Ucx negative.  Chem 7 appears to be
   contraction alkalosis. Would not diurese at this time.  Extubated
   yesterday, breathing well on 3L NC.
   - Continue Azithromycin for 5 day course empiric atypical PNA given
   increased WBC count this AM; although no infiltrate on OSH chest CT,
   thick secretions yesterday.
   - f/u blood cultures (negative to date)
   - Continue nebs, solumedrol for presumed COPD exacerbation (Given IV
   solumedrol 80mg [**Hospital1 **] at OSH.)
   .
   # CORONARIES:  Patient has known CAD s/p multiple MIs. We do not have
   these records in our system. Outpatient cardiologist at [**Hospital 9079**]
   clinic.  Ruled out for MI during this admission.  Re-initiated on BB
   yesterday at home dose.
   -Continue ASA, statin, Lisinopril
   -Continue Metoprolol, uptitrate as needed to optimize HR control
   .
   # PUMP:  Patient has known systolic heart failure with baseline EF of
   30%. Most recent echo showed EF of 15-20%.  Unclear why she has
   worsening systolic function, but should have TTE as an outpatient once
   her acute issues have resolved. Ruled out for ischemia at OSH. Patient
   currently appears euvolemic on exam. Chem 7 suggests contraction
   alkalosis. Would not diurese at this time unless patient becomes
   dyspneic or hypoxic.  Postive ~0.3 over 24 hours, initiated on 20mg po
   Lasix to start this morning.  Will monitor I/O today and diurese with
   additional Lasix to keep even.
   - Continue Lasix 20mg po daily
   - Lasix 20mg IV as needed to keep I/O even
   - Continue Lisinopril, Metoprolol, Digoxin
   .
   # RHYTHM:  currently in atrial fibrillation, rate well controlled. Afib
   with RVR induced by levophed at OSH. As a result, patient was loaded
   with IV Amiodarone. Most recent INR 1.4.   Initiated on Metoprolol at
   12.5mg daily (home dose) yesterday for tachycardia in 100
s.  Currently
   with continued HR 80
s-100
s, in need of up-titration of Metoprolol.
   PTT 150 on Heparin sliding scale.
   - Increase Metoprolol to 25mg daily
   - Continue Diltiazem 30mg [**Hospital1 **]
   - Consider increasing Warfarin dose, as INR 1.4 four days after
   re-initiation.  CHAD2 score is 3
 6% annual stroke risk from age, chf,
   dm so benefits from continued anticoagulation
   .
   # Neuro deficits by history, most likely TIA.
   - consider carotid dopplers, likely as outpatient.
   - full neuro exam when off sedation
   .
   # DM2: Unclear outpatient regimen. However with steroids, sugars have
   been elevated. Question of Lantus dose at OSH, currently adequate sugar
   control on SSI without need for long acting insulin.
   - Discontinue Glargine as pt not requiring, and not on Glargine at home
   - Continue SSI
   -qid fingersticks
   .
   # Hyponatremia: Na 130 prior to transfer, currently resolved. Appears
   euvolemic. Patient has new lung nodule, concerning for malignancy, but
   given resolution of hyponatremia, unlikely to be SIADH.
   .
   # Transaminitis with elevated AST, ALT:  Resolving.  She underwent an
   abdominal ultrasound which revealed dilated hepatic veins and IVC
   likely representing increased right heart pressure. AAA was noted at
   4.8 x 4.7 cm. Her crestor was held.
   .
   #.  Spiculated 1.8 cm lung mass in the right apical segment concerning
   for malignancy:
   - This will need a biopsy and further workup once acute issues have
   resolved.
   - Will notify pt and family once patient stabilized and out of the ICU
       .
   FEN:  Diabetic, heart healthy, low sodium diet. No IV fluids. Replete
   lytes PRN.
   .
   ACCESS: L IJ, may be pulled once pt stable after extubation.  PIV in
   place.
   .
   PROPHYLAXIS:
   -DVT ppx with heparin drip
   -Pain management
   -Bowel regimen with  Miralax
   - GI PPx for high dose steroid use
   .
   CODE: DNR, confirmed with HCP at OSH. Patient already intubated. Okay
   with central lines and pressors.
   .
   COMM: [**Name (NI) **] healthcare proxy is her brother, [**Name (NI) **]
   [**Name (NI) 9076**],  phone number [**Telephone/Fax (1) 9077**], cell phone. Home phone [**Telephone/Fax (1) 9078**].
   .
   DISPO: CCU for now
 HYPERGLYCEMIA
 ATRIAL FIBRILLATION (AFIB)
 IMPAIRED SKIN INTEGRITY
 HEART FAILURE (CHF), SYSTOLIC, CHRONIC
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2184-11-1**] 12:00 PM
   22 Gauge - [**2184-11-1**] 12:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition: